US08039472B2
3-(Cyclohexyl-methyl-sulfamoyl)-4-methoxy-benzoic acid
A solution of 3-(Cyclohexyl-methyl-sulfamoyl)-4-methoxy-benzoic acid methyl ester (1.50 g, 4.39 mmol) in 1,4 dioxane (40 ml) is treated with 2 N NaOH (10 ml) and the resulting solution is stirred at room temperature for 21 hours. The solvent is removed in vacuo and ice cold 2 N HCl (25 ml) is added and the white solid which forms is extracted into DCM (150 ml). The organic layer is washed with water, dried (MgSO4) and the solvent removed in vacuo to yield the title compound as a white solid; [M−1]− 326.

reactant | 3-(Cyclohexyl-methyl-sulfamoyl)-4-methoxy-benzoic acid methyl ester | 4.39 mmol, 1.50 g | COC(C1=CC(=C(C=C1)OC)S(N(C)C1CCCCC1)(=O)=O)=O | C16H23NO5S
reactant | NaOH | 2 N, 10 ml | [OH-].[Na+]
solvent | 1,4 dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3-(Cyclohexyl-methyl-sulfamoyl)-4-methoxy-benzoic acid | C1(CCCCC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1OC)C | C15H21NO5S
